* Library of quartz crystals

* Copyright 1987-1995 by MicroSim Corporation
* Neither this library nor any part may be copied without the express
* written consent of MicroSim Corporation

* $Revision:   1.6  $
* $Author:   ANW  $
* $Date:   23 Feb 1995 18:44:42  $

* ---------------------------------------------------------------------------
* The parameters in this model library were derived from:
*
*   Quartz-crystal timing accuracy
*   Electonic Design 2, January 19, 1976; pp. 74-79
*
* and:
*
*   Electronics Designers' Handbook, Second Edition
*   edited by L.J. Giacoletto
*   McGraw-Hill Book Co., 1977, pp. 16-16 to 16-31

* Example use:  X3 3 4 QZ32768

* Notes:
* 1) Temperature variation of resonant frequency for properly cut
*    crystals is quadratic.  The coefficient depends on the cut used
*    and is implemented in these subcircuits by giving the equivalent
*    inductor a temperature coefficient.  The AT cut is an exception,
*    and has a cubic temperature dependence which is not included in
*    these models.
* 2) The values of lqz, cs, and cp do not vary much from one crystal
*    to the next.  The value of rqz, however, can vary as much as a
*    factor of 2 up or down.  So the crystal's Q can vary over a
*    range of 4 to 1.
* 3) Parallel resonant crystals can be tuned slightly by attaching an
*    external capacitor in parallel with the crystal.  The crystal's
*    frequency is built assuming a value of the external capacitor,
*    called the "calibration capacitance".  Its value is noted in
*    the comment at the head of each parallel resonant crystal model.
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 32768 hertz watch crystal, XY cut, series resonant, Q=81780
*
.subckt QZS32768 1 2
*
  lqz	1	11	lmod	4448.72259
  .model	lmod	ind(tc2 = 8.68e-8)
  cs	11	12	5.30279780e-015
  rqz	12	2	11.2k
  cp	1	2	1.84pf
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 100khz frequency standard, DT cut, parallel resonant, Q=20000
*   calibration capacitance = 5pf
.subckt QZP100K 1 2
*
  lqz	1	11	lmod	588.873289
  .model	lmod	ind(tc2=3.5e-8)
  cs	11	12	4.30423941e-015
  rqz	12	2	18.5k
  cp	1	2	1.72169576e-012
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 100khz frequency standard, DT cut, series resonant, Q=20000
.subckt QZS100K 1 2
*
  lqz	1	11	lmod	588.873289
  .model	lmod	ind(tc2=3.5e-8)
  cs	11	12	4.30148495e-015
  rqz	12	2	18.5k
  cp	1	2	1.72059398e-012
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 1Mhz frequency standard, AT cut, parallel resonant, Q=25000,
*   calibration capacitance = 13pf
.subckt QZP1MEG 1 2
*
  lqz	1	11	2.54647909
  cs	11	12	9.95357648e-015
  rqz	12	2	640
  cp	1	2	2.48839412e-012
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 1Mhz frequency standard, AT cut, series resonant, Q=25000
.subckt QZS1MEG 1 2
*
  lqz	1	11	2.54647909
  cs	11	12	9.94718394e-015
  rqz	12	2	640
  cp	1	2	2.48679599e-012
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 3.579545Mhz color burst, AT cut, parallel resonant, Q=25000,
*   calibration capacitance = 18pf
.subckt QZPCBRST 1 2
*
  lqz	1	11	.0555779237
  cs	11	12	3.56169600e-014
  rqz	12	2	50
  cp	1	2	8.90424001e-012
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 10Mhz frequency standard, AT cut, parallel resonant, Q=25000
*   calibration capacitance = 50pf
.subckt QZP10MEG 1 2
*
  lqz	1	11	2.54647909e-003
  cs	11	12	9.96041181e-014
  rqz	12	2	6.4
  cp	1	2	2.49010295e-011
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
* 10Mhz frequency standard, AT cut, series resonant, Q=25000
.subckt QZS10MEG 1 2
*
  lqz	1	11	2.54647909e-003
  cs	11	12	9.94718394e-014
  rqz	12	2	6.4
  cp	1	2	2.48679599e-011
.ends
*$
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -

* end of library file

